* D:\yutaka_home\my_doc\Arduino\hhskb\hhskb.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 2017/01/05 22:34:57

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
SW11  /OUTPUT1 Net-_D11-Pad2_ SW_PUSH		
SW12  /OUTPUT2 Net-_D12-Pad2_ SW_PUSH		
SW13  /OUTPUT3 Net-_D13-Pad2_ SW_PUSH		
SW17  /OUTPUT7 Net-_D17-Pad2_ SW_PUSH		
SW14  /OUTPUT4 Net-_D14-Pad2_ SW_PUSH		
SW15  /OUTPUT5 Net-_D15-Pad2_ SW_PUSH		
SW16  /OUTPUT6 Net-_D16-Pad2_ SW_PUSH		
SW21  /OUTPUT1 Net-_D21-Pad2_ SW_PUSH		
SW22  /OUTPUT2 Net-_D22-Pad2_ SW_PUSH		
SW23  /OUTPUT3 Net-_D23-Pad2_ SW_PUSH		
SW24  /OUTPUT4 Net-_D24-Pad2_ SW_PUSH		
SW25  /OUTPUT5 Net-_D25-Pad2_ SW_PUSH		
SW26  /OUTPUT6 Net-_D26-Pad2_ SW_PUSH		
SW31  /OUTPUT1 Net-_D31-Pad2_ SW_PUSH		
SW32  /OUTPUT2 Net-_D32-Pad2_ SW_PUSH		
SW33  /OUTPUT3 Net-_D33-Pad2_ SW_PUSH		
SW34  /OUTPUT4 Net-_D34-Pad2_ SW_PUSH		
SW35  /OUTPUT5 Net-_D35-Pad2_ SW_PUSH		
SW36  /OUTPUT6 Net-_D36-Pad2_ SW_PUSH		
SW41  /OUTPUT1 Net-_D41-Pad2_ SW_PUSH		
SW42  /OUTPUT2 Net-_D42-Pad2_ SW_PUSH		
SW43  /OUTPUT3 Net-_D43-Pad2_ SW_PUSH		
SW44  /OUTPUT4 Net-_D44-Pad2_ SW_PUSH		
SW45  /OUTPUT5 Net-_D45-Pad2_ SW_PUSH		
SW46  /OUTPUT6 Net-_D46-Pad2_ SW_PUSH		
SW53  /OUTPUT3 Net-_D53-Pad2_ SW_PUSH		
SW54  /OUTPUT4 Net-_D54-Pad2_ SW_PUSH		
SW55  /OUTPUT5 Net-_D55-Pad2_ SW_PUSH		
SW52  /OUTPUT2 Net-_D52-Pad2_ SW_PUSH		
D11  /INPUT1 Net-_D11-Pad2_ D		
D12  /INPUT1 Net-_D12-Pad2_ D		
D13  /INPUT1 Net-_D13-Pad2_ D		
D14  /INPUT1 Net-_D14-Pad2_ D		
D15  /INPUT1 Net-_D15-Pad2_ D		
D16  /INPUT1 Net-_D16-Pad2_ D		
D17  /INPUT1 Net-_D17-Pad2_ D		
D21  /INPUT2 Net-_D21-Pad2_ D		
D22  /INPUT2 Net-_D22-Pad2_ D		
D23  /INPUT2 Net-_D23-Pad2_ D		
D24  /INPUT2 Net-_D24-Pad2_ D		
D25  /INPUT2 Net-_D25-Pad2_ D		
D26  /INPUT2 Net-_D26-Pad2_ D		
D31  /INPUT3 Net-_D31-Pad2_ D		
D32  /INPUT3 Net-_D32-Pad2_ D		
D33  /INPUT3 Net-_D33-Pad2_ D		
D34  /INPUT3 Net-_D34-Pad2_ D		
D35  /INPUT3 Net-_D35-Pad2_ D		
D36  /INPUT3 Net-_D36-Pad2_ D		
D41  /INPUT4 Net-_D41-Pad2_ D		
D42  /INPUT4 Net-_D42-Pad2_ D		
D43  /INPUT4 Net-_D43-Pad2_ D		
D44  /INPUT4 Net-_D44-Pad2_ D		
D45  /INPUT4 Net-_D45-Pad2_ D		
D46  /INPUT4 Net-_D46-Pad2_ D		
D52  /INPUT5 Net-_D52-Pad2_ D		
D53  /INPUT5 Net-_D53-Pad2_ D		
D54  /INPUT5 Net-_D54-Pad2_ D		
D55  /INPUT5 Net-_D55-Pad2_ D		
U1  /INPUT1 /INPUT2 /INPUT3 /INPUT4 /INPUT5 /STATE2 /STATE3 /STATE4 VCC GND /SCL /SDA GND GND GND VCC ? ? /OUTPUT1 /OUTPUT2 /OUTPUT3 /OUTPUT4 /OUTPUT5 /OUTPUT6 /OUTPUT7 /STATE1 MCP23017		
J1  VCC /SDA /SCL GND 4pin_Jack		
C1  VCC GND 0.1		
D1  GND /STATE1 LED		
D2  GND /STATE2 LED		
D3  GND /STATE3 LED		
D4  GND /STATE4 LED		

.end
